US08119666B2
B. N-(2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-phenyl)-C-phenyl-methanesulfonamide
To a solution of 5-[4-(2-aminobenzyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (150 mg, 0.29 mmol) in pyridine (3 mL) is added α-tolylsulfonyl chloride (66 mg, 0.35 mmol) and the solution is stirred at ambient temperature for 1.5 h. The mixture is neutralized using 1N HCl solution, then diluted with EtOAc. The organic phase is washed with brine and water and is dried with MgSO4, and concentrated. The residue is purified by flash column chromatography to give the title compound.

reactant | 5-[4-(2-aminobenzyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.29 mmol, 150 mg | NC1=C(CC2=CC(=C(C=C2)N2CC(N(S2(=O)=O)CC[Si](C)(C)C)=O)OCC2=CC=CC=C2)C=CC=C1 | C27H33N3O4SSi
reactant | α-tolylsulfonyl chloride | 0.35 mmol, 66 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | HCl | 1N | Cl | ClH
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-phenyl)-C-phenyl-methanesulfonamide | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C=CC=C2)NS(=O)(=O)CC2=CC=CC=C2)C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O | C34H39N3O6S2Si
